US09029536B2
C) 4-(1-Ethyl-6-fluoro-1H-pyrazolo[4,3-b]pyridin-3-yl)phenol
A mixture of [4-(benzyloxy)phenyl](3,5-difluoropyridin-2-yl)methanone (400 mg), ethylhydrazine (369 mg) and 2-propanol (5 mL) was stirred at room temperature for 30 min, and at 90° C. for 12 h, treated with water, and extracted with AcOEt. The organic layer was dried over MgSO4 and concentrated under reduced pressure. The residue was dissolved in EtOH (40 mL) and 10% Pd—C (50% wet, 400 mg) was added. The mixture was stirred at room temperature for 1 h under H2 atmosphere, filtered and evaporated. The residue was suspended in AcOEt/IPE and collected by filtration to give the title compound (220 mg).

reactant | [4-(benzyloxy)phenyl](3,5-difluoropyridin-2-yl)methanone | 400 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(=O)C1=NC=C(C=C1F)F | C19H13F2NO2
reactant | ethylhydrazine | 369 mg | C(C)NN | C2H8N2
reactant | 2-propanol | 5 mL | CC(C)O | C3H8O
solvent | water | O | H2O
product | 4-(1-Ethyl-6-fluoro-1H-pyrazolo[4,3-b]pyridin-3-yl)phenol | 220 mg | C(C)N1N=C(C2=NC=C(C=C21)F)C2=CC=C(C=C2)O | C14H12FN3O
